US04740637
A. Preparation of (2-methyl[1,1'-biphenyl]-3-yl)magnesium chloride
Under a nitrogen atmosphere, 101.3 g (0.50 mole) of 3-chloro-2-methylbiphenyl (92% purity) in 75 g of dry tetrahydrofuran was added dropwise over two hours with stirring to a gently refluxing mixture of 13.1 g (0.54 mole) of fresh magnesium turnings, the heel from a previous run containing 0.21 mole of unreacted magnesium, and 75 g of dry tetrahydrofuran in a dry reaction vessel. Upon complete addition, the reaction mixture was heated at reflux for five additional hours. Gas chromatographic analysis of a quenched sample of the reaction mixture showed 1.2% of unreacted 3-chloro-2-methylbiphenyl and 92.4% of 2-methylbiphenyl. The reaction mixture was allowed to cool overnight.

reactant | 3-chloro-2-methylbiphenyl | 0.50 mole, 101.3 g | ClC=1C(=C(C=CC1)C1=CC=CC=C1)C | C13H11Cl
reactant | magnesium | 0.54 mole, 13.1 g | [Mg] | Mg
reactant | magnesium | 0.21 mole | [Mg] | Mg
reactant | 2-methylbiphenyl | CC1=C(C=CC=C1)C1=CC=CC=C1 | C13H12
solvent | tetrahydrofuran | 75 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 g | O1CCCC1 | C4H8O
product | (2-methyl[1,1'-biphenyl]-3-yl)magnesium chloride | CC1=C(C=CC=C1[Mg]Cl)C1=CC=CC=C1 | InChI=1S/C13H11.ClH.Mg/c1-11-7-5-6-10-13(11)12-8-3-2-4-9-12;;/h2-6,8-10H,1H3;1H;/q;;+1/p-1
